US08030499B2
Synthesis of 5-chloro-3-(2-methoxyphenyl)-1-{[4-methoxy-2-(trifluoromethoxy)phenyl]sulfonyl}-3-[2-oxo-2-(4-pyrazine-2-ylpiperazin-1-yl)ethyl]-1,3-dihydro-2H-indol-2-one
With 300 mg of 5-chloro-3-(2-methoxyphenyl)-3-[2-oxo-2-(4-pyrazine-2-ylpiperazin-1-yl)ethyl]-1,3-dihydro-2H-indol-2-one, which is the compound described in Composes IV.1 of the brochure Publication No. WO03/008407, and 201 mg of 4-methoxy-2-(trifluoromethoxy)benzene sulfonyl chloride as starting materials, 424 mg of the title compound (pale yellow amorphous) was obtained by a similar method to Example 2.

reactant | 5-chloro-3-(2-methoxyphenyl)-3-[2-oxo-2-(4-pyrazine-2-ylpiperazin-1-yl)ethyl]-1,3-dihydro-2H-indol-2-one | 300 mg | ClC=1C=C2C(C(NC2=CC1)=O)(CC(N1CCN(CC1)C1=NC=CN=C1)=O)C1=C(C=CC=C1)OC | C25H24ClN5O3
reactant | 4-methoxy-2-(trifluoromethoxy)benzene sulfonyl chloride | 201 mg | COC1=CC(=C(C=C1)S(=O)(=O)Cl)OC(F)(F)F | C8H6ClF3O4S
product | 5-chloro-3-(2-methoxyphenyl)-1-{[4-methoxy-2-(trifluoromethoxy)phenyl]sulfonyl}-3-[2-oxo-2-(4-pyrazine-2-ylpiperazin-1-yl)ethyl]-1,3-dihydro-2H-indol-2-one | 424 mg | ClC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=C(C=C(C=C1)OC)OC(F)(F)F)=O)(CC(N1CCN(CC1)C1=NC=CN=C1)=O)C1=C(C=CC=C1)OC | C33H29ClF3N5O7S
